US08084490B2
(2S)-(−)-N-(7-Amino-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-sulfamide (Compound #36)
(2S )-(−)-N-(2,3-Dihydro-7-nitro-benzo[1,4]dioxin-2-ylmethyl)-sulfamide (1.2 g, 4.15 mmol), was prepared from 4-nitrocatechol according to the process outlined in Example 4. The (2S)-(−)-N-(2,3-Dihydro-7-nitro-benzo[1,4]dioxin-2-ylmethyl)-sulfamide, was then combined with 10% Pd/C in methanol (120 mL) and shaken under hydrogen atmosphere (39 psi) at room temperature for 3 h. The solids were filtered and washed with 10% M in DCM and the filtrate was evaporated in vacuo to yield crude product. The crude product was dissolved in 0.2 N HCl (25 mL), frozen and lyophilized to yield the title compound as a white flaky solid, as the corresponding hydrochloride salt.

reactant | (2S )-(−)-N-(2,3-Dihydro-7-nitro-benzo[1,4]dioxin-2-ylmethyl)-sulfamide | 4.15 mmol, 1.2 g | [N+](=O)([O-])C=1C=CC2=C(O[C@H](CO2)CNS(=O)(=O)N)C1 | C9H11N3O6S
reactant | 4-nitrocatechol | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
solvent | methanol | 120 mL | CO | CH4O
solvent | HCl | 0.2 N, 25 mL | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
product | (2S)-(−)-N-(7-Amino-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-sulfamide | NC=1C=CC2=C(O[C@H](CO2)CNS(=O)(=O)N)C1 | C9H13N3O4S
